US07429565B2
(2-{Benzyl-[4-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-2-methyl-but-2-enyl]-amino}-ethyl)-phosphonic acid
A solution of (2-{4-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-2-methyl-but-2-enylamino}-ethyl)-phosphonic acid diethyl ester (15 mg, 0.024 mmol) in acetonitrile (0.5 mL) was treated with TMSBr (31 μL, 0.24 mmol) and 2,6-lutidine (28 μL, 0.24 mmol). The solution was stirred at ambient temperature for 1 hour, when it was quenched with methanol. The solvent was removed under reduced pressure and the residue was purified by RP HPLC using a C18 column with a gradient of H2O, 0.1% TFA-acetonitrile, 0.1% TFA to provide 11 mg of the product (93%) as a white solid. 1H NMR (300 MHz, CD3OD) δ 1.89 (s, 3H), 2.03-2.15 (m, 2H), 2.14 (s, 3H), 3.30-3.47 (m, 2H), 3.50 (br s, 2H), 3.62 (br s, 2H), 3.79 (s, 3H), 4.28 (s, 2H), 5.23 (s, 2H), 5.76 (br s, 1H), 7.46 (br s, 5H) ppm; 31P (121.4 MHz, CDCl3) δ 20.1 ppm; MS (m/z) 476.3 [M+H]+, 498.3 [M+Na]+.

reactant | (2-{4-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-2-methyl-but-2-enylamino}-ethyl)-phosphonic acid diethyl ester | 0.024 mmol, 15 mg | C(C)OP(OCC)(=O)CCNCC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)OCC[Si](C)(C)C)C | C26H44NO7PSi
reactant | TMSBr | 0.24 mmol, 31 μL | C[Si](C)(C)Br | C3H9BrSi
reactant | 2,6-lutidine | 0.24 mmol, 28 μL | N1=C(C=CC=C1C)C | C7H9N
solvent | acetonitrile | 0.5 mL | C(C)#N | C2H3N
product | (2-{Benzyl-[4-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-2-methyl-but-2-enyl]-amino}-ethyl)-phosphonic acid | 11 mg, 93% | C(C1=CC=CC=C1)N(CCP(O)(O)=O)CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)O)C | C24H30NO7P
